US07074809B2
6-Methyl-piperidine-2-carboxylic acid
6-Methyl-pyridine-2-carboxylic acid (4.11 g, 30 mmol) was mixed with platinum(IV) oxide (35 mg, 0.154 mmol) in ethanol (50 mL) and water (25 mL) and stirred under hydrogen for 3 days. The reaction mixture was filtered through the celite and concentrated to dry. The residue was triturated with diethyl ether to give 4.1 g (98.3%) of the title compound as a white solid. 1H NMR (CDCl3), δ(ppm): 3.39 (dd,1H), 3.11 (m, 1H), 2.28 (d, 1H), 1.88 (m, 2H), 1.35–1.67 (m, 3H), 1.32 (d, 3H).

reactant | 6-Methyl-pyridine-2-carboxylic acid | 30 mmol, 4.11 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | platinum(IV) oxide | 0.154 mmol, 35 mg | [Pt](=O)=O
product | 6-Methyl-piperidine-2-carboxylic acid | 4.1 g, 98.3% | CC1CCCC(N1)C(=O)O | C7H13NO2
